2166-03-04 07:26:00 Physician Resident Progress Note
Chief Complaint: Chief Complaint: dyspnea
   Reason for MICU admission: respiratory failure and intubation.
   24 Hour Events:
 ARTERIAL LINE - START [**2166-3-3**] 09:32 PM
   [**3-3**]
   -Had respiratory alkalosis [**2-11**] overventilation, reduced RR which
   resolved this and brought her closer to her baseline PCO2
   - Place Aline
 placed
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2166-3-3**] 07:47 PM
   Piperacillin/Tazobactam (Zosyn) - [**2166-3-4**] 03:47 AM
   Infusions:
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2166-3-3**] 08:42 PM
   Hydralazine - [**2166-3-4**] 02:16 AM
   Heparin Sodium (Prophylaxis) - [**2166-3-4**] 03:47 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Cardiovascular: Chest pain, Denies exertional angina, this does not
   feel like a heart attack.
   Flowsheet Data as of  [**2166-3-4**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**68**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 103 (74 - 103) bpm
   BP: 150/71(101) {111/56(73) - 173/82(116)} mmHg
   RR: 16 (16 - 34) insp/min
   SpO2: 95%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 45.8 kg (admission): 20.8 kg
             Total In:
                                                                    465 mL
                                                                    643 mL
   PO:
             TF:
   IVF:
                                                                    385 mL
                                                                    563 mL
   Blood products:
   Total out:
                                                                    695 mL
                                                                    220 mL
   Urine:
                                                                    695 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -230 mL
                                                                    423 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 280 (280 - 300) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 31 cmH2O
   Plateau: 24 cmH2O
   SpO2: 95%
   ABG: 7.40/73.[**Numeric Identifier 218**]/73.[**Numeric Identifier 218**]/39/15
   Ve: 5.7 L/min
   PaO2 / FiO2: 183
   Physical Examination
   GEN: Drowsy but alert to voice, denied pupil exam, intubated
   CV: RRR, no RMG, JVD elevated half-way up neck, TTP on chest
   PULM: CTAB no WRR, prolonged exp phase
   ABD: Soft, mild TTP, quiet BS
   EXT: No edema, wwp, palpable distal pulses
   Labs / Radiology
   129 K/uL
   10.1 g/dL
   116 mg/dL
   1.1 mg/dL
   39 mEq/L
   3.8 mEq/L
   24 mg/dL
   98 mEq/L
   145 mEq/L
   32.3 %
   5.5 K/uL
        [image002.jpg]
                             [**2166-3-3**]  03:41 PM
                             [**2166-3-3**]  08:11 PM
                             [**2166-3-3**]  10:02 PM
                             [**2166-3-3**]  11:27 PM
                             [**2166-3-4**]  02:01 AM
                             [**2166-3-4**]  03:30 AM
   WBC
   5.5
   Hct
   32.3
   Plt
   129
   Cr
   1.1
   TropT
   0.01
   TCO2
   46
   50
   48
   49
   47
   Glucose
   116
   Other labs: PT / PTT / INR:12.4/29.5/1.0, CK / CKMB /
   Troponin-T:149/3/0.01, Lactic Acid:1.0 mmol/L, Ca++:9.6 mg/dL, Mg++:2.1
   mg/dL, PO4:1.9 mg/dL
   ABG: [**2166-3-4**] 0700:
                                     pH
                                    7.45
                                    pCO2
                                     57
                                     pO2
                                     89
                                    HCO3
                                     41
                                   BaseXS
                                     12
   Imaging: CXR AP [**2166-3-5**]
   1. Endotracheal tube approximately 3 cm above the carina.
   2. Large hiatla hernia.
   3. Probable bibasilar atelectasis.
   4. Stable cardiomegaly.
   Microbiology: [**2166-3-3**]  URINE Legionella Urinary Antigen -FINAL
   INPATIENT - NEG
   [**2166-3-3**]  URINE URINE CULTURE-PENDING INPATIENT
   [**2166-3-3**]  SPUTUM GRAM STAIN-FINAL; RESPIRATORY CULTURE-PRELIMINARY
   INPATIENT - NGTD, NEG Gram stain
   [**2166-3-3**]  BLOOD CULTURE Blood Culture, Routine-PENDING EMERGENCY [**Hospital1 **]
   ECG: NSR, no ST changes, inferior TWI
   Assessment and Plan
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 HYPERTENSION, BENIGN
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   70F with severe kyphoscoliosis and chronic restrictive lung
   disease/hypoventilation, presenting with likely hypercarbic respiratory
   failure.
   .
   # Respiratory failure.  Patient now s/p intubation.  At baseline she
   has chronic hypoventilation (high baseline pCO2 80s)  with multiple
   chronic oxygenation and ventilation difficulties as result of
   restrictive body habitus, obstructive disease, dCHF,  and pulmonary
   hypertension.  Her acute decompensation can be secondary to CPAP
   nonadherance, COPD exacerbation, CHF exacerbation (BNP 1800). Ischemia
   less likely as CE have been negative x2.  Infection also possibility
   but sputum prelim has not grown out any organisms. CXR this AM with
   slight increase in vascular congestion but no signs of
   infiltrates/consolidations.
   - Other infectious workup to account for decompensation - check urine,
   C.diff; f/u blood cultures.
 NGTD
   - Goal sats 90-93% given baseline CO2 retention (though may worsen
   pulmonary arterial pressures if hypoxic vasocontriction playing a
   role.  Decrease FiO2 accordingly.
   - Goal pCO2 85-90 with pH 7.3-7.35.
   - Would recommend reducing her minute ventilation by reducing her Vt by
   reducing her set Vt further
   - Will continue to attempt to decrease ventilatory support
 switched
   back to volume controlled ventilation in order to more tightly watch
   minute vents, though recommend switching back to PCV if pressures
   become an issue.  Would guess that patient somewhat of a rapid shallow
   breather at baseline (spirometry FVC is <500).
   - Standing bronchodilators via ETT.
   - Would recommend diuresis (with sufficient replacement of free water)
   to further decrease work of breathing).
   - Would continue vanc/zosyn for HAP coverage
   - Would continue prednisone 60mg PO Daily and Azithromycin 250mg PO
   Daily for COPD flare tx
   - Daily SBTs,
   - VAP PPX
   .
   # Chronic diastolic heart failure and pulmonary hypertension.  Now
   possibly in CHF after prednisone and some IVF although 200cc positive
   in ICU. JVD seems up though feeling ill and with diarrhea in past few
   days.  Recent TTE with volume overload and elevated PA pressures. BNP
   elevated.
   - Recommend lasix now.
   - Stop IVFs except KVO.
   - BP control with home agents.
   .
   # Anemia: Pt w/ HCT of 32, baseline of 34. Macrocytosis
   - Monitor
   - Recheck B12 and folate
   .
   # Thrombocytopenia.  Stable. Mild but new.  Unclear etiology.  Did have
   borderline B12 level last admission with mild macrocytosis.
   - Obtain accurate home med list.
   - repeat B12 with homocysteine and MMA.
   .
   # Hypernatremia.  Resolved. Likely volume depletion with recent
   diarrhea +/- diuresis at home.
   - Replete free water PO here.
   - Hold lasix.
   .
   # Hyperkalemia.  Resolved. Differential - mild renal insufficiency vs.
   med effect (albuterol).
   - Repeat this PM.
   - Hold ACEI.
   .
   FEN: No IVF, replete electrolytes, TF consult.
   Prophylaxis: Subutaneous heparin, home PPI.
   Access: peripherals
   Code:  Full
   Communication: Patient
   Disposition: pending clinical improvement
   ICU Care
   Nutrition: NPO, OG in place, Nutrition consult for TF
   Glycemic Control:
   Lines:
   20 Gauge - [**2166-3-3**] 06:30 PM
   Arterial Line - [**2166-3-3**] 09:32 PM
   Prophylaxis:
   DVT: HCT
   Stress ulcer: Home PPI
   VAP:  HOB, chlorhexadine, oral care
   Comments:
   Communication:  Comments:
   Code status: CONFIRMED FULL
   Disposition: ICU

2166-03-04 09:28:00 Physician Attending Progress Note
Chief Complaint: Acute on chronic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - START [**2166-3-3**] 09:32 PM
   Continues intubated
   Complaining of chest pain this morning, no worsening SOB
   ECG:  No acute STTW changes.  First sets of cardiac enzymes
   unremarkable
   Large amount of oral secretions, ETT with pink tinged thin secretions
   History obtained from Patient
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2166-3-3**] 07:47 PM
   Piperacillin/Tazobactam (Zosyn) - [**2166-3-4**] 03:47 AM
   Infusions:
   Propofol - 35 mcg/Kg/min
   Other ICU medications:
   Pantoprazole (Protonix) - [**2166-3-3**] 08:42 PM
   Hydralazine - [**2166-3-4**] 02:16 AM
   Heparin Sodium (Prophylaxis) - [**2166-3-4**] 03:47 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: Fatigue
   Nutritional Support: NPO
   Genitourinary: Foley
   Heme / Lymph: Anemia
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2166-3-4**] 09:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**68**] AM
   Tmax: 37.7
C (99.9
   Tcurrent: 37.7
C (99.9
   HR: 101 (74 - 103) bpm
   BP: 128/66(89) {111/56(73) - 173/82(116)} mmHg
   RR: 18 (16 - 34) insp/min
   SpO2: 94%
   Heart rhythm: ST (Sinus Tachycardia)
   Wgt (current): 45.8 kg (admission): 20.8 kg
             Total In:
                                                                    465 mL
                                                                    727 mL
   PO:
             TF:
   IVF:
                                                                    385 mL
                                                                    587 mL
   Blood products:
   Total out:
                                                                    695 mL
                                                                    220 mL
   Urine:
                                                                    695 mL
                                                                    220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -230 mL
                                                                    507 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 280 (280 - 300) mL
   RR (Set): 16
   RR (Spontaneous): 2
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 30 cmH2O
   Plateau: 23 cmH2O
   SpO2: 94%
   ABG: 7.45/57/89.[**Numeric Identifier 126**]/39/12
   Ve: 5.4 L/min
   PaO2 / FiO2: 223
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL, Supraclavicular WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Crackles :
   scattered), Prolonged expiratory phase; mild chest wall tenderness to
   palpation left greater than right
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Musculoskeletal: Unable to stand
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   10.1 g/dL
   129 K/uL
   116 mg/dL
   1.1 mg/dL
   39 mEq/L
   3.8 mEq/L
   24 mg/dL
   98 mEq/L
   145 mEq/L
   32.3 %
   5.5 K/uL
        [image002.jpg]
                             [**2166-3-3**]  03:41 PM
                             [**2166-3-3**]  08:11 PM
                             [**2166-3-3**]  10:02 PM
                             [**2166-3-3**]  11:27 PM
                             [**2166-3-4**]  02:01 AM
                             [**2166-3-4**]  03:30 AM
                             [**2166-3-4**]  07:28 AM
   WBC
   5.5
   Hct
   32.3
   Plt
   129
   Cr
   1.1
   TropT
   0.01
   TCO2
   46
   50
   48
   49
   47
   41
   Glucose
   116
   Other labs: PT / PTT / INR:12.4/29.5/1.0, CK / CKMB /
   Troponin-T:145/3/0.01, Lactic Acid:1.0 mmol/L, Ca++:9.6 mg/dL, Mg++:2.1
   mg/dL, PO4:1.9 mg/dL
   Imaging: CXR: small lung volumes, ETT in good position, ?increased
   interstitial markings
   Microbiology: Urine legionella antigen negative
   UCx and BCx NGTD
   Assessment and Plan
 ACUTE ON CHRONIC RESPIRATORY FAILURE:  Mulitfactorial given
   restricitve/obstructive lung disease, COPD exacerbation, possilbe
   infection, and superimposed CHF.  Doubt ischemic cardiac event.
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION:  On solumedrol and MDIs.  Wean steroids
   rapidly.  On vanco/zosyn covering hospital acquired organisms.
 DIASTOLIC CHF:  Superimposed CHF now exacerbating respiratory status.
   Plan for lasix to get negative prior to anticipated extubation with
   llikely noninvasive mask ventilation postextubation.  Follow
   electrolytes and replete as needed.   Keep NPO in anticipation of
   extubation.
 ANEMIA:  Stable Hct. GAS.  Anemia workup.
 HYPERTENSION, BENIGN:  Continue home meds.
   ICU Care
   Nutrition:
   Comments: NPO
   Glycemic Control:
   Lines:
   20 Gauge - [**2166-3-3**] 06:30 PM
   Arterial Line - [**2166-3-3**] 09:32 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2166-03-05 07:47:00 Physician Resident Progress Note
Chief Complaint: Chief Complaint: dyspnea
   Reason for MICU admission: respiratory failure and intubation.
   24 Hour Events:
 BLOOD CULTURED - At [**2166-3-4**] 04:30 PM
   from aline
 BLOOD CULTURED - At [**2166-3-4**] 04:49 PM
   peripheral
 URINE CULTURE - At [**2166-3-4**] 04:50 PM
   [**3-4**]
   - extubated without complications
   - spiked to 101 at 1630, cultured
   - outpatient pulmonologist contact[**Name (NI) **]: she has bad restrictive and
   obstructive disease and sleep apnea, chronic CO2 retention
   - placed on nasal bipap overnight
   - K repleted
   History obtained from Patient
   Allergies:
   History obtained from PatientNo Known Drug Allergies
   Last dose of Antibiotics:
   Vancomycin - [**2166-3-4**] 07:29 PM
   Piperacillin/Tazobactam (Zosyn) - [**2166-3-5**] 04:00 AM
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2166-3-4**] 02:20 PM
   Pantoprazole (Protonix) - [**2166-3-4**] 07:29 PM
   Heparin Sodium (Prophylaxis) - [**2166-3-5**] 04:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: Denies CP, SOB. Feels at her baseline.
   Flowsheet Data as of  [**2166-3-5**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**68**] AM
   Tmax: 38.3
C (101
   Tcurrent: 37.4
C (99.4
   HR: 89 (81 - 105) bpm
   BP: 153/73(104) {107/55(74) - 186/120(129)} mmHg
   RR: 35 (16 - 42) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 45.8 kg (admission): 45.8 kg
   Height: 57 Inch
             Total In:
                                                                  1,716 mL
                                                                    177 mL
   PO:
                                                                    240 mL
             TF:
   IVF:
                                                                  1,276 mL
                                                                    177 mL
   Blood products:
   Total out:
                                                                  2,740 mL
                                                                    860 mL
   Urine:
                                                                  2,740 mL
                                                                    860 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,024 mL
                                                                   -683 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 260 (260 - 260) mL
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 30 cmH2O
   Plateau: 26 cmH2O
   SpO2: 99%
   ABG: 7.48/61/85.[**Numeric Identifier 126**]/40/18
   Ve: 6 L/min
   PaO2 / FiO2: 213
   Physical Examination
   GEN: Pleasant thin elderly woman in NAD, looks great, smilling
   CV: RRR, no RMG, JVP to mid neck
   PULM: Reduced breath sounds but CTAB, no WRR
   ABD: Soft, NTND, +BS
   EXT: No edema
   Labs / Radiology
   134 K/uL
   9.3 g/dL
   88 mg/dL
   1.3 mg/dL
   40 mEq/L
   3.3 mEq/L
   26 mg/dL
   97 mEq/L
   144 mEq/L
   29.3 %
   4.9 K/uL
        [image002.jpg]
                             [**2166-3-3**]  10:02 PM
                             [**2166-3-3**]  11:27 PM
                             [**2166-3-4**]  02:01 AM
                             [**2166-3-4**]  03:30 AM
                             [**2166-3-4**]  07:12 AM
                             [**2166-3-4**]  07:28 AM
                             [**2166-3-4**]  09:52 AM
                             [**2166-3-4**]  04:16 PM
                             [**2166-3-4**]  06:06 PM
                             [**2166-3-5**]  04:12 AM
   WBC
   5.5
   4.9
   Hct
   32.3
   29.3
   Plt
   129
   134
   Cr
   1.1
   1.4
   1.3
   TropT
   0.01
   0.02
   0.02
   TCO2
   48
   49
   47
   41
   40
   47
   Glucose
   116
   113
   88
   Other labs: PT / PTT / INR:12.4/29.5/1.0, CK / CKMB /
   Troponin-T:172/2/0.02, Lactic Acid:1.0 mmol/L, Ca++:8.7 mg/dL, Mg++:2.2
   mg/dL, PO4:2.6 mg/dL
   Imaging: CXR AP [**2166-3-4**]:
   FINDINGS: AP single view of the chest has been obtained with patient in
   sitting semi-upright position and comparison is made with the next
   preceding similar study of [**2166-3-3**]. The patient remains
   intubated, the ETT in unchanged appropriate position. No pneumothorax
   has developed. As before low
   pulmonary volume related to rather high positioned diaphragms with
   crowded vasculature at the bases probably also containing some plate
   atelectasis. No evidence of new pulmonary infiltrates. NG tubes again
   being coiled up in a location compatible with large hiatal hernia.
   IMPRESSION: Stable chest findings on limited portable chest
   examination.
   Microbiology: [**2166-3-4**]  BLOOD CULTURE Blood Culture, Routine-PENDING
   INPATIENT
   [**2166-3-4**]  BLOOD CULTURE Blood Culture, Routine-PENDING INPATIENT
   [**2166-3-4**]  URINE URINE CULTURE-PENDING INPATIENT
   Assessment and Plan
 ACUTE RESPIRATORY DISTRESS SYNDROME (ARDS, ACUTE LUNG INJURY, [**Doctor Last Name 11**])
 HYPERTENSION, BENIGN
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
   70F with severe kyphoscoliosis and chronic restrictive lung
   disease/hypoventilation, presenting with likely hypercarbic respiratory
   failure.
   .
   # Respiratory distress.  Patient now s/p extubation. Presented w/ CPAP
   non-adherance, CHF exacerbation, and likely infectious source. At
   baseline she has chronic hypoventilation (high baseline pCO2 80s),
   obstructive disease, dCHF, and pulmonary hypertension.
   - Continue BIPAP, cannot emphasize enough how important home adherance
   to BIPAP is
   - Resum home lasix 80mg PO Daily
   - Standing bronchodilators for COPD
   - Continue short course prednisone taper for COPD exacerbation
   - Continue vanc, zosyn for HAP coverage (8 days starting from [**3-3**])
   - Call out to floor today
   # Fever: Likely [**2-11**] PNA. Checking U/A. Blood cx pending.
   - Cont abx for HAP
   - F/u cx
   # Chest pain: Resolved.
   .
   # Chronic diastolic heart failure and pulmonary hypertension.  Probably
   euvolemic but poor afterload reduction
   - Plan per above
   - Continue Lisinopril 40mg PO Daily
   - Starting Lasix 80mg PO Daily
   - [**Month (only) 51**] need second antihypertensive [**Doctor Last Name **]
   .
   # Anemia: Pt w/ HCT of 29, baseline of 34. Macrocytosis. Boarderline
   B12, normal folate. Guiac negative.
   - Monitor
   - Continue vitamin B12
   .
   # Thrombocytopenia.  Stable. Mild but new.  Unclear etiology.  Did have
   borderline B12 level last admission with mild macrocytosis.
   - Continue to monitor
   .
   # Hypernatremia.  Resolved by repleting free water.
   .
   # Hyperkalemia.  Resolved.
   ICU Care
   Nutrition: Cardiac healthy diet
   Glycemic Control:
   Lines:
   20 Gauge - [**2166-3-3**] 06:30 PM
   Arterial Line - [**2166-3-3**] 09:32 PM
 will pull a-line today
   Prophylaxis:
   DVT: HCT
   Stress ulcer: Home PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: CONFIRMED FULL
   Disposition: Called out to medical floor today
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient with the MICU resident and was present
   during key portions of the serviced provided.  The assessment and plan
   was discussed and is detailed above.  I would emphasize and add the
   following.  Patient tolerated extubation, was put on noninvasive
   ventilation only transiently and totally empirically in case she had
   trouble coming off the vent.  Actually looked better on a simple face
   mask.  Now on 3 L nasal cannula which is what she is on at home.
   Patient feels breathing is back to her baseline.  No cough.  Tolerated
   BiPAP overnight here.  Diuresing.
   Lungs with diminished breath sounds, no crackles.  No edema.
   CXR unchanged
   Stable since extubation yesterday afternoon.  Completing course of abx
   for HAP.  Emphasized to the patient that it will be important to wear
   BiPAP at home.  Stable for transfer to the floor today.
   Otherwise agree with full assessment and plan as above.
   Time spent:  25 minutes
   ------ Protected Section Addendum Entered By:[**Name (NI) 3079**] [**Last Name (NamePattern1) 3080**], MD
   on:[**2166-3-5**] 12:34 ------